US07902187B2
3-(6-(3,3-difluoroazetidin-1-yl)-9-(trans-4-hydroxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile.
Synthesized from 3-(6-chloro-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile by demethylation, followed by displacement of chlorine in the 6-chloropurinone with 3,3-difluoroazetidine. 1HNMR (300 MHz, CDCl3+CD3OD) δ, ppm: 9.12 (s, 1H), 8.92 (s, 1H), 7.90 (d, 1H), 7.64 (dd, 1H), 4.71 (t, 4H), 4.46-4.32 (m, 1H), 3.98-3.83 (m, 1H), 2.64-2.46 (m, 2H), 2.24-2.15 (m, 2H), 1.97-1.87 (m, 2H), 1.62-1.46 (m, 2H); MS (EI) m/z 467.0 (MH)+.

reactant | 3-(6-chloro-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)[C@@H]2CC[C@H](CC2)OC)=O | C20H18ClN7O2
reactant | chlorine | ClCl | Cl2
reactant | 3,3-difluoroazetidine | FC1(CNC1)F | C3H5F2N
solvent | 6-chloropurinone | ClC=1C2=NC=NC2=NC(N1)=O | C5HClN4O
product | 3-(6-(3,3-difluoroazetidin-1-yl)-9-(trans-4-hydroxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-yl)-3H-benzo[d]imidazole-5-carbonitrile | FC1(CN(C1)C1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)C#N)[C@@H]2CC[C@H](CC2)O)=O)F | C22H20F2N8O2
